US08202865B2
Step 2: Ethyl 4-{3-[amino(hydroxyimino)methyl]phenoxy}butanoate
Ethyl 4-(3-cyanophenoxy)butanoate (3.79 g; 16.25 mmol; 1 eq.) was suspended in EtOH (75.80 mL). Hydroxylamine (2.40 mL; 81.24 mmol; 5 eq.) was added in one portion and the reaction mixture was stirred at RT for 24 hours. The reaction mixture was concentrated affording the title compound as a white solid (4.29 g, 99%). 1H NMR (DMSO-d6, 300 MHz) δ 9.61 (br s, 1H), 7.27-7.20 (m, 3H), 6.94-6.90 (m, 1H), 5.79 (br s, 2H), 4.11-3.98 (m, 4H), 2.48-2.44 (t, J=7.15 Hz, 2H), 2.01-1.93 (m, 2H), 1.20-1.15 (t, J=7.03 Hz, 3H). LC/MS (Method A): 266.8 (M+H)+. HPLC (Method A) Rt 2.62 min (Purity: 98.8%).

reactant | Ethyl 4-(3-cyanophenoxy)butanoate | 16.25 mmol, 3.79 g, 1 eq. | C(#N)C=1C=C(OCCCC(=O)OCC)C=CC1 | C13H15NO3
reactant | Hydroxylamine | 81.24 mmol, 2.40 mL, 5 eq. | NO | H3NO
solvent | EtOH | 75.80 mL | CCO | C2H6O
product | Ethyl 4-{3-[amino(hydroxyimino)methyl]phenoxy}butanoate | 4.29 g, 99% | NC(C=1C=C(OCCCC(=O)OCC)C=CC1)=NO | C13H18N2O4
